US06689922B1
(4E,6Z)-7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethylnona-4,6-dien-3-ol
In a manner similar to Example 53(e), by reacting 72 mg (0.15 mmol) of dimethyl 4-[3-((1Z,3E)-5-ethyl-5-hydroxy-1-ethylhepta-1,3-dienyl)phenoxymethyl]phthalate (prepared in a manner similar to Examples 66(a-b)) with 10 mg (0.46 mmol) of lithium borohydride, a colourless oil is obtained (m=62 mg; Y=100%).

reactant | dimethyl 4-[3-((1Z,3E)-5-ethyl-5-hydroxy-1-ethylhepta-1,3-dienyl)phenoxymethyl]phthalate | 0.15 mmol, 72 mg | C(C)C(/C=C/C=C(/CC)\C=1C=C(OCC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=CC1)(CC)O | C28H34O6
reactant | lithium borohydride | 0.46 mmol, 10 mg | [BH4-].[Li+]
product | (4E,6Z)-7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethylnona-4,6-dien-3-ol | OCC=1C=C(COC=2C=C(C=CC2)\C(=C/C=C/C(CC)(O)CC)\CC)C=CC1CO | C26H34O4
